US07786108B2
Step 7. Preparation of (+/−)-Isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-(2-methyl-2H-tetrazol-5-yl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add tri-n-butylphosphine to a solution of (+/−)-isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-(2H-tetrazol-5-yl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate, methanol and 1,1′-(azocarbonyl)dipiperidine (ADDP) in toluene at 0° C. under nitrogen and warm to room temperature. Dilute the mixture with ethyl acetate, wash with 2 N HCl and brine and dry over sodium sulfate. Remove the solvents under reduced pressure and purify the residue by flash column chromatography on silica gel to provide the title compound.

reactant | tri-n-butylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (+/−)-isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-(2H-tetrazol-5-yl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C=CC(=C3)Br)C=3N=NNN3)C=C(C1)C(F)(F)F)(F)F | C24H23BrF6N6O2
reactant | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+/−)-Isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-(2-methyl-2H-tetrazol-5-yl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C=CC(=C3)Br)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C25H25BrF6N6O2
